US09163012B2
1-hydroxy-4-adamantyl 3-(5-chloropyrimidin-2-yl)pyrrolidine-1-carboxylate
The title compound was prepared following a procedure analogous to that described in Example 19 Step 1 using 1-hydroxy-4-adamantyl chloroformate solution and 5-chloro-2-(pyrrolidin-3-yl)pyrimidine. Two isomers were separated by prep HPLC.

reactant | 1-hydroxy-4-adamantyl chloroformate | ClC(=O)OC1C2CC3(CC(CC1C3)C2)O | C11H15ClO3
reactant | 5-chloro-2-(pyrrolidin-3-yl)pyrimidine | ClC=1C=NC(=NC1)C1CNCC1 | C8H10ClN3
product | 1-hydroxy-4-adamantyl 3-(5-chloropyrimidin-2-yl)pyrrolidine-1-carboxylate | ClC=1C=NC(=NC1)C1CN(CC1)C(=O)OC1C2CC3(CC(CC1C3)C2)O | C19H24ClN3O3
